US06323227B1
B. 4-(6-methoxy-pyridin-3-yl)-benzoic acid
A 1N sodium hydroxide solution (20 mL) is added to a mixture of 4-(6-methoxy-pyridin-3-yl)-benzoic acid ethyl ester (2.43 g, 9.44 mmol) in MeOH (20 mL) and THF (20 mL) and stirred at 35° C. for 1 hour. The reaction is cooled and 1N HCl added until the pH is˜4. The precipitate is isolated by filtration and dried in a vacuum desiccator to give a the product as a white solid (2.03 g, 8.86 mmol). 1H NMR (DMSO-d6, 300 MHz) δ8.57 (d, 1H), 8.08 (dd, 1H), 7.99 (d, 2H), 7.82 (d, 2H), 6.95 (d, 1H), 3.89 (s, 3H).

reactant | sodium hydroxide | 1N, 20 mL | [OH-].[Na+]
reactant | 4-(6-methoxy-pyridin-3-yl)-benzoic acid ethyl ester | 9.44 mmol, 2.43 g | C(C)OC(C1=CC=C(C=C1)C=1C=NC(=CC1)OC)=O | C15H15NO3
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(6-methoxy-pyridin-3-yl)-benzoic acid | 8.86 mmol, 2.03 g | COC1=CC=C(C=N1)C1=CC=C(C(=O)O)C=C1 | C13H11NO3
